US05576340
2-[2-(4-Methoxycarbonylphenoxy)-1-methylethyl]amino-1-(3-chlorophenyl)ethanol
A procedure similar to that described in Example 12 was repeated, except that 3.43 g of 2-amino-1-(3-chlorophenyl)ethanol (prepared as described in Preparation 8), 4.5 g of methyl 4-(2-oxopropoxy)benzoate (prepared as described in European Patent Publication No. 6735), 100 ml of benzene, 100 ml of absolute methanol and 2.7 g of sodium borohydride were used, to give the title compound as crystals, melting at 99°-101° C.

reactant | 2-amino-1-(3-chlorophenyl)ethanol | 3.43 g | NCC(O)C1=CC(=CC=C1)Cl | C8H10ClNO
reactant | methyl 4-(2-oxopropoxy)benzoate | 4.5 g | O=C(COC1=CC=C(C(=O)OC)C=C1)C | C11H12O4
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
reactant | sodium borohydride | 2.7 g | [BH4-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
product | 2-[2-(4-Methoxycarbonylphenoxy)-1-methylethyl]amino-1-(3-chlorophenyl)ethanol | COC(=O)C1=CC=C(OCC(C)NCC(O)C2=CC(=CC=C2)Cl)C=C1 | C19H22ClNO4
